US07452992B2
A solution of 1-amino-5{[tert-butyl(dimethyl)silyl]oxy}-3-phenylpentan-3-ol (278 mg, 0.9 mmol) and p-formaldehyde (300 mg, 10 mmol) in 9 mL MeOH was heated under reflux for 90 min. A 2 mL aliquot (0.2 mmol) was removed, filtered, and concentrated in vacuo. The residue was redissolved in 0.5 mL DMF and 1 mL CH2Cl2 and to this solution was added 5-[(tert-butylamino)sulfonyl]-2-chloro-4-fluorobenzoic acid (62 mg, 0.2 mmol), diisopropylethylamine (70 μL, 0.4 mmol) and HATU (114 mg, 0.3 mmol). After 5 h, saturated aqueous NaHCO3 was added, and the aqueous layer was extracted with CHCl3. The organic layers were pooled, dried (Na2SO4), concentrated and purified by chromatography (4:1 hex:EtOAc) to provide N-(tert-butyl)-5-{[6-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-6-phenyl-1,3-oxazinan-3-yl]carbonyl}-4-chloro-2-fluorobenzenesulfonamide, which was used without further purification. The crude N-(tert-butyl)-5-{[6-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-6-phenyl-1,3-oxazinan-3-yl]carbonyl}-4-chloro-2-fluorobenzenesulfonamide was stirred in a solution of 1 M TBAF in THF for 1.5 h, then washed with saturated aqueous NaHCO3 and purified by chromatography (2:1 EtOAc:hex) to provide N-(tert-butyl)-4-chloro-2-fluoro-5-{[6-(2-hydroxyethyl)-6-phenyl-1,3-oxazinan-3-yl]carbonyl}benzenesulfonamide (25.2 mg, 25%) as a clear oil. 1H NMR (400 MHz, CDCl3), δ 8.03 (d, 0.5H, J=7.3 Hz, rotamer), 7.70 (d, 0.5H, J=7.3 Hz, rotamer), 7.46-7.30 (m, 6H), 5.81 (d, 0.5H, J=10.4 Hz, rotamer), 4.98 (m, 0.5H, rotamer), 4.88 (m, 1H), 4.72-4.48 (m, 3H), 3.15 (m, 1H), 2.96 (m, 1H), 2.52-1.73 (m, 5H), 1.24 (m, 9H, rotamers); ESI-MS 497 (M−H).

reactant | 1-amino-5{[tert-butyl(dimethyl)silyl]oxy}-3-phenylpentan-3-ol | 0.9 mmol, 278 mg | NCCC(CCO[Si](C)(C)C(C)(C)C)(O)C1=CC=CC=C1 | C17H31NO2Si
reactant | 5-[(tert-butylamino)sulfonyl]-2-chloro-4-fluorobenzoic acid | 0.2 mmol, 62 mg | C(C)(C)(C)NS(=O)(=O)C=1C(=CC(=C(C(=O)O)C1)Cl)F | C11H13ClFNO4S
reactant | diisopropylethylamine | 0.4 mmol, 70 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 0.3 mmol, 114 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 9 mL | CO | CH4O
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | N-(tert-butyl)-5-{[6-(2-{[tert-butyl(dimethyl)silyl]oxy}ethyl)-6-phenyl-1,3-oxazinan-3-yl]carbonyl}-4-chloro-2-fluorobenzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=C(C=C(C(=C1)C(=O)N1COC(CC1)(C1=CC=CC=C1)CCO[Si](C)(C)C(C)(C)C)Cl)F | C29H42ClFN2O5SSi
